US07504508B2
{[3-(4-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenoxy)propyl]amino}acetic acid was prepared from (2S,4R)-N-{1-[4-(3-amino-propoxy)-benzoyl]-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl}-N-(4-chloro-phenyl)-acetamide. (2S,4R)-N-{1-[4-(3-amino-propoxy)-benzoyl]-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl}-N-(4-chloro-phenyl)-acetamide (0.036 g, 0.07 mmol) was dissolved in dimethylformamide, ethyl bromoacetate (0.008 mL, 0.07 mmol) and potassium carbonate (0.021 g, 0.14 mmol) were added. The reaction was heated to 50° C. for 17 h. The reaction was concentrated down and purified using 50% ethyl acetate/50% hexane to 100% ethyl acetate.

reactant | (2S,4R)-N-{1-[4-(3-amino-propoxy)-benzoyl]-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl}-N-(4-chloro-phenyl)-acetamide | NCCCOC1=CC=C(C(=O)N2[C@H](C[C@H](C3=CC=CC=C23)N(C(C)=O)C2=CC=C(C=C2)Cl)C)C=C1 | C28H30ClN3O3
reactant | (2S,4R)-N-{1-[4-(3-amino-propoxy)-benzoyl]-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl}-N-(4-chloro-phenyl)-acetamide | 0.07 mmol, 0.036 g | NCCCOC1=CC=C(C(=O)N2[C@H](C[C@H](C3=CC=CC=C23)N(C(C)=O)C2=CC=C(C=C2)Cl)C)C=C1 | C28H30ClN3O3
reactant | ethyl bromoacetate | 0.07 mmol, 0.008 mL | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 0.14 mmol, 0.021 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | {[3-(4-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenoxy)propyl]amino}acetic acid | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(OCCCNCC(=O)O)C=C1)C)C1=CC=C(C=C1)Cl | C30H32ClN3O5
